US05814631
Synthesis of 7-chloro-3-(4-nitrobenzenesulfonyl)-2,4(1H,3H)-quinazolinedione (Compound 13)
1.13 g (4.95 mmol) of 4-nitrobenzenesulfonylisocyanate and 849 mg (4.95 mmol) of 2-amino-4-chlorobenzoic acid were treated in the same way as in Example 1 to obtain 610 mg of the above-identified compound (yield 32.3%). Properties: colorless crystal, Melting point: >250° C., PMR (δppm, DMSO-d6): 7.13 (1H,s), 7.24 (1H,d), 7.87 (1H,d), 8.42 (2H,d), 8.48 (2H,d), 11.93 (1H,br).

reactant | 4-nitrobenzenesulfonylisocyanate | 4.95 mmol, 1.13 g | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=O)N=C=O | C7H4N2O5S
reactant | 2-amino-4-chlorobenzoic acid | 4.95 mmol, 849 mg | NC1=C(C(=O)O)C=CC(=C1)Cl | C7H6ClNO2
product | 7-chloro-3-(4-nitrobenzenesulfonyl)-2,4(1H,3H)-quinazolinedione | 610 mg, yield 32.3% | ClC1=CC=C2C(N(C(NC2=C1)=O)S(=O)(=O)C1=CC=C(C=C1)[N+](=O)[O-])=O | C14H8ClN3O6S
